US05321026
A solution of 10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (6 g), and 3-methylbutylamine (18.9 cc) in absolute ethanol (90 cc) is saturated with hydrogen sulphide and brought for 16 hours to a temperature in the region of 105° C. After cooling, the reaction mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The oily brown residue is purified by chromatography on a column (height: 40 cm, diameter: 4 cm) of silica gel (0.02-0.063 mm), eluting with methylene chloride (1 liter) and then with a mixture (1.5 liters) of methylene chloride and methanol (95:5 by volume) and collecting 80-cc fractions. Fractions 23 to 36 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. N-(3-Methylbutyl)-10-[1-(1-pyrrolidinyl) -2-propyl]-2-phenothiazinecarboxamide, L series (6.76 g), is thereby obtained in the form of an orange-colored oil.

reactant | 10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=O)N | C20H23N3OS
reactant | 3-methylbutylamine | 18.9 cc | CC(CCN)C | C5H13N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 90 cc | C(C)O | C2H6O
product | N-(3-Methylbutyl)-10-[1-(1-pyrrolidinyl) -2-propyl]-2-phenothiazinecarboxamide | CC(CCNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C)C | C25H33N3OS
